US05753680
1.0 g of methyl 2-amino-4-(3-pyridyl)-5-methylsulfonylbenzoate [obtainable by reacting methyl 2-amino-4-bromo-5-methylsulfonylbenzoate with pyridine-3-boronic acid] is dissolved in 15 ml of 1-methylpyrrolidone and the solution is stirred for 15 min. Subsequently 0.9 g of guanidinium chloride and 2.6 ml of diisopropylethylamine are added and the mixture is stirred at room temperature for one hour. Customary workup gives N-diaminomethylene-2-amino-4-(3-pyridyl)-5-methylsulfonylbenzamide.

reactant | methyl 2-amino-4-(3-pyridyl)-5-methylsulfonylbenzoate | 1.0 g | NC1=C(C(=O)OC)C=C(C(=C1)C=1C=NC=CC1)S(=O)(=O)C | C14H14N2O4S
reactant | guanidinium chloride | 0.9 g | [Cl-].NC(=[NH2+])N
reactant | diisopropylethylamine | 2.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1-methylpyrrolidone | 15 ml | CN1C(CCC1)=O | C5H9NO
product | N-diaminomethylene-2-amino-4-(3-pyridyl)-5-methylsulfonylbenzamide | NC(=NC(C1=C(C=C(C(=C1)S(=O)(=O)C)C=1C=NC=CC1)N)=O)N | C14H15N5O3S
